US06630593B1
Synthesis of 1-(3-Hydroxypropyl)-5-hydroxymethylimidazole
1-(3-Hydroxypropyl)-2-mercapto-5-hydroxymethylimidazole(5.0 g, 23.1 mmol) and tungstic acid(H2WO4, 58 mg, 1 mol %) were mixed in 25 ml of methanol and 25 ml of distilled water. The mixture was warmed to 40° C. and 3.6 g of 30% hydrogen peroxide was added dropwise thereto. The whole mixture was stirred for 15 minutes and cooled and then, neutralized with 1 N sodium hydroxide solution. The resulting mixture was extracted twice with 25 ml of n-butanol and the solvent was distilled under reduced pressure to give 3.45 g(Yield 80.7%) of the title compound. 1H NMR (500 MHz, CDCl3) δ 7.46 (1H, s), 6.91 (1H, s), 4.61 (2H, s), 4.15 (2H, t, J=7 Hz), 3.52 (2H, t, J=7 Hz), 2.01 (2H, m).

reactant | 1-(3-Hydroxypropyl)-2-mercapto-5-hydroxymethylimidazole | 23.1 mmol, 5.0 g | OCCCN1C(=NC=C1CO)S | C7H12N2O2S
reactant | hydrogen peroxide | 3.6 g | OO | H2O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
catalyst | tungstic acid | 58 mg | O[W](=O)(=O)O
product | 1-(3-Hydroxypropyl)-5-hydroxymethylimidazole | 3.45 g, Yield 80.7% | OCCCN1C=NC=C1CO | C7H12N2O2
